US09376422B2
Step 3: Synthesis of tert-butyl 4-(3-(cyclopentyl(methyl)amino)-5-(methoxycarbonyl)-4-methylphenyl)piperazine-1-carboxylate
A solution of methyl 5-bromo-3-(cyclopentyl(methyl)amino)-2-methylbenzoate (1 g, 3.07 mmol), tert-butyl piperazine-1-carboxylate (0.85 g, 4.61 mmol) and Cs2CO3 (0.5 g, 1.53 mmol) in toluene (25 mL) was purged with argon for 10 min. Then, Pd2(dba)3 (0.31 g, 0.307 mmol) and BINAP (0.038 g, 0.061 mmol) was added to it and argon purged again for 10 min. The reaction mixture was stirred at 100° C. for 8 h. After completion, water was added to it and extracted with ethyl acetate. The combined organic layers were washed with water, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to afford crude material which was purified by column chromatography to afford the title compound (0.44 g, 33.3%).

reactant | methyl 5-bromo-3-(cyclopentyl(methyl)amino)-2-methylbenzoate | 3.07 mmol, 1 g | BrC=1C=C(C(=C(C(=O)OC)C1)C)N(C)C1CCCC1 | C15H20BrNO2
reactant | tert-butyl piperazine-1-carboxylate | 4.61 mmol, 0.85 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | Cs2CO3 | 1.53 mmol, 0.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.307 mmol, 0.31 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.061 mmol, 0.038 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | tert-butyl 4-(3-(cyclopentyl(methyl)amino)-5-(methoxycarbonyl)-4-methylphenyl)piperazine-1-carboxylate | 0.44 g, 33.3% | C1(CCCC1)N(C=1C=C(C=C(C1C)C(=O)OC)N1CCN(CC1)C(=O)OC(C)(C)C)C | C24H37N3O4
